US04560686
To 1.92 g (0.01 mol) of 1-(2-methoxyphenyl)piperazine, 2,05 g (0.01 mol) of 2-aminoethylbromide hydrobromide, 2.5 g of triethylamine and 20 ml of n-butanol were added, and the mixture was refluxed for 6 hours. After the reaction, the mixture was concentrated under vacuum, and to the resulting residue, 2.5 g of anhydrous sodium carbonate, 20 ml of water and 20 ml of ethyl acetate were added. Under agitation with cooling on ice, a solution of 2.2 g (0.011 mol) of 2,3-dimethoxybenzoyl chloride in a small amount of ethyl acetate was added dropwise to the mixture. Thereafter, the mixture was stirred for 30 minutes under cooling with ice and extracted with ethyl acetate by agitation for 30 minutes at room temperature. The separated organic layer was washed with water, and 1N HCl was added until the pH became 3.0. The aqueous layer was separated, neutralized with sodium hydroxide and extracted with ethyl acetate. The resulting organic layer was washed with water, dried with Glauber's salt and concentrated under vacuum. The residue was subjected to column chromatography on silica gel (solvent: chloroform/methanol=100:1) to provide 1.99 g (yield: 50%) of 1-(2-methoxyphenyl)-4[2-(2,3-dimethoxybenzoyl)aminoethyl]piperazine. Recrystallization from isopropanol gave a colorless acicular crystal having a melting point of 133°-134° C.

reactant | 1-(2-methoxyphenyl)piperazine | 0.01 mol, 1.92 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | 2-aminoethylbromide hydrobromide | 0.01 mol, 2,05 g | Br.NCCBr
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxybenzoyl chloride | 0.011 mol, 2.2 g | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 1-(2-methoxyphenyl)-4[2-(2,3-dimethoxybenzoyl)aminoethyl]piperazine | 1.99 g, yield: 50% | COC1=C(C=CC=C1)N1CCN(CC1)CCNC(C1=C(C(=CC=C1)OC)OC)=O | C22H29N3O4
